US06426345B1
A mixture of 4-(3-acetylamino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (847 mg) and hydrochloric acid (35%, 1 ml) in methanol (10 ml) was stirred under reflux for 2 hours. After cooling, the resultant precipitate was collected and washed with methanol to give 4-(3-amino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazinedihydrochloride (612 mg).

reactant | 4-(3-acetylamino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 847 mg | C(C)(=O)NC=1C=C(C=C(C1)C(=O)OC)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C23H19N5O4
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4-(3-amino-5-methoxycarbonylphenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazinedihydrochloride | 612 mg | Cl.Cl.NC=1C=C(C=C(C1)C(=O)OC)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | InChI=1S/C21H17N5O3.2ClH/c1-29-21(28)14-9-15(22)11-16(10-14)26-19-17(5-3-7-24-19)25-18(20(26)27)8-13-4-2-6-23-12-13;;/h2-7,9-12H,8,22H2,1H3;2*1H
